US07176322B2
5-Hydroxymethyl-1-methylbenzimidazole
A solution of methyl 1-methylbenzimidazole-5-carboxylate (1.6 g, 8.42 mmol) in dry THF (80 mL) was treated with LiAlH4 (1.59 g, 42.1 mmol) and the mixture stirred for 2 hours. 1.5 mL of 5% NaOH solution was then added, and the solid which precipitated was filtered through diatomaceous earth. The filtrate was collected and the solvent removed under reduced pressure to give 0.8 g of the title compound.

reactant | methyl 1-methylbenzimidazole-5-carboxylate | 8.42 mmol, 1.6 g | CN1C=NC2=C1C=CC(=C2)C(=O)OC | C10H10N2O2
reactant | LiAlH4 | 42.1 mmol, 1.59 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1.5 mL | [OH-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-1-methylbenzimidazole | 0.8 g | OCC1=CC2=C(N(C=N2)C)C=C1 | C9H10N2O
